datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([S]C)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([S]C)[S][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C 21=20;20,10=10"
"[OH:21][C:20]1(C)C(O)C(C)C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C(C)C(O)[C:20](C)=[OH+:21] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(CC)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(CC)[S]1 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])[H])CC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10]([H])C(C)/C(C)=C(C)\C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(C)=C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][O:10]C([H])C(C)C([H])[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C([H])C([H])C(C)[O:10]1>>[O-:10]C(C)C([H])C([H])C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C)([O-:10])[O:21]C)[H])CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1C)[H])CCCCCC.[O-:21]C 10=20;20,21=21"
"C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[O][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[O][H] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]CC)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)CC 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C([H])[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][O:10]C([H])C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[S:10][H].C[O+:21]=[C:20]([S][H])[O]CC.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21]C)([S][H])[O]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[NH+:10]([H])C([H])C(C)C1[H]>>[NH:10]([H])C([H])C(C)C([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"[OH:21][C:20]1(OCC)[OH+:10]C(CC)C(C)=C1O>>[OH:10]C(CC)/C(C)=C([C:20](OCC)=[OH+:21])/O 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]C)CC>>CCCCCCN([C:20](=[O:10])OCCCCCC)CC.[O-:21]C 10=20;20,21=21"
"CCN([C:20]([O-:10])(OCC)[O:21][H])CC>>CCN([C:20](=[O:10])OCC)CC.[O-:21][H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C)CC>>CC1C(C(O[C:20](=[O:10])N1[H])C)CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][O:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[OH:21][C:20]1([H])C([H])C([H])=C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)/C(C)=C([H])\C([H])[C:20]([H])=[OH+:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])[H])[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])[H])CC 10=20;20,21=21"
